US03960888
28.5 gm of succinic acid monomethylamide (0.216 mol) were melted with 35.4 gm of H3PO3 (0.432 mol) at 70°C and then slowly mixed with 37.8 ml of PCl3 (0.432 mol). After an additional 5 hours at 70°C, the product was hydrolyzed with 300 ml of H2O. Filtration with activated carbon at the boiling point yielded a clear solution from which the N-methylpyrrolidone-5,5-diphosphonic acid was precipitated with ethanol and acetone. Crude yield 4.2 gm (7% of the theory).

reactant | succinic acid monomethylamide | 0.216 mol, 28.5 gm | CNC(CCC(=O)O)=O | C5H9NO3
reactant | H3PO3 | 0.432 mol, 35.4 gm | OP(=O)O | H3O3P
reactant | PCl3 | 0.432 mol, 37.8 ml | P(Cl)(Cl)Cl | Cl3P
solvent | H2O | 300 ml | O | H2O
product | N-methylpyrrolidone-5,5-diphosphonic acid | CN1C(CCC1(P(O)(=O)O)P(O)(=O)O)=O | C5H11NO7P2
